US07423159B2
A mixture of tert-butyl [4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzyl]carbamate (2.0 g) and 4N hydrogenchloride in ethyl acetate (80 mL) was stirred at 70° C. for 15 hrs. The precipitated crystals were collected by filtration and washed with ethyl acetate. A 1N aqueous sodium hydroxide solution (50 mL) was added to the obtained crystals (0.30 g) and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give (2E)-N-[4-(aminomethyl)phenyl]-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylamide as colorless crystals (0.18 g). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 201-202° C.

reactant | tert-butyl [4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzyl]carbamate | 2.0 g | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C25H27FN4O3
reactant | hydrogenchloride | 4N | Cl | ClH
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (2E)-N-[4-(aminomethyl)phenyl]-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylamide | 0.18 g | NCC1=CC=C(C=C1)NC(\C=C\C=1C=NN(C1C1=CC=C(C=C1)F)C)=O | C20H19FN4O
